US04539328
Under a nitrogen atmosphere, a stirred suspension of 2-(4-fluorophenyl)-2-(4-methylphenylsulfonyloxy)iminoacetonitrile (64.0 g, 0.2 mole) and triethylamine (61.8 g, 0.61 mole) in 1 l of absolute ethanol was cooled to 5° C. Ethyl 2-mercaptoacetate (26.8 g, 0.22 mole) was added dropwise over a four hour period. The reaction mixture was then stirred for 16 hours and warmed to room temperature. The reaction mixture was concentrated and poured into 2 l of ice water. The resultant precipitate was collected by filtration. The solid filter cake was washed with water and dried. The solid was dissolved in 1.5 l of boiling heptane, and the solution was slurried with silica gel. The hot mixture was filtered; on cooling the filtrate, the solid recrystallized and was collected by filtration, washed with heptane, and dried to give ethyl 3-(4-fluorophenyl)-4-amino-5-isothiazolecarboxylate (22.0 g, mp 137°-139° C.).

reactant | 2-(4-fluorophenyl)-2-(4-methylphenylsulfonyloxy)iminoacetonitrile | 0.2 mole, 64.0 g | FC1=CC=C(C=C1)C(C#N)=NOS(=O)(=O)C1=CC=C(C=C1)C | C15H11FN2O3S
reactant | triethylamine | 0.61 mole, 61.8 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl 2-mercaptoacetate | 0.22 mole, 26.8 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 1 l | C(C)O | C2H6O
product | ethyl 3-(4-fluorophenyl)-4-amino-5-isothiazolecarboxylate | 22.0 g | FC1=CC=C(C=C1)C1=NSC(=C1N)C(=O)OCC | C12H11FN2O2S
